US06150568
To a stirred solution of valiolamine (80 mg, 0.414 mmol), in 96% aq. methanol (5.2 mL) was added 3,5-di-t-butyl-1,2-benzoquinone (92 mg, 0.418 mmol) dissolved in methanol (2 mL) at room temperature. After stirring for 90 min, water (1 mL) was added, the pH lowered to 5.0 (pH paper control) with an aqueous solution of oxalic acid, and the mixture shaken vigorously for 45 min. Subsequently, the pH was adjusted to 8 with ammonium hydroxide. The mixture was diluted with water (80 mL) and extracted with chloroform (4×40 mL). The water phase was concentrated to approximately 5 mL in a vacuum and loaded onto an IRA-68 anion exchange column (40 mL, OH- -form). Elution with water gave a fraction containing the product. This solution was concentrated to 1 mL and further purified by chromatography on a weak cation exchanger (Wk-100, 40 mL, NH4+ -form, mobile phase: water) to give pure valiolone (42 mg, 0.219 mmol, 53% yield). 1H NMR (300 MHz, D2O), δ(ppm): 2.39 (d, 1H, J=14.6 Hz, HCH--C=O); 2.79 (d, 1H, J=14.6 Hz, HCH--C=O); 3.3 (d, 1H, J=11.5 Hz, HCH--C--OH); 3.62 (d, 1H, J=11.3 Hz, HCH--C--OH); 3.63 (t, 1H, J=9.5 Hz, HC-3); 3.84 (d, 1H, J=9.4 Hz, HC-4) and 4.19 (d, 1H, J=9.7 Hz, Hc-2). 13C NMR (75 MHz, D2O), δ (ppm): 45.45, 64.37, 72.91, 75.79, 76.01, 78.62 and 209.43.

reactant | valiolamine | 0.414 mmol, 80 mg | C1[C@@H]([C@@H]([C@H]([C@@H]([C@]1(CO)O)O)O)O)N | C7H15NO5
reactant | 3,5-di-t-butyl-1,2-benzoquinone | 0.418 mmol, 92 mg | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | 5.2 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | valiolone | 0.219 mmol, 42 mg, 53% yield | C1C(=O)[C@@H]([C@H]([C@@H]([C@]1(CO)O)O)O)O | C7H12O6
